US08293917B2
To a solution of 3-amino-3-(3-bromo-phenyl)-propionic acid (1.0 g, 4.1 mmol) in methanol-toluene (100 mL; 1:1 solution) at room temperature is added trimethylsilyl diazomethane (2.0 M solution in hexanes, 20 mL, 40 mmol). After 30 min, excess trimethylsilyl diazomethane is quenched by addition of glacial acetic acid (5 mL). Concentration in vacuo affords of 3-amino-3-(3-bromo-phenyl)-propionic acid methyl ester (1.0 g, 95%) as a colorless liquid which solidifies upon standing.

reactant | 3-amino-3-(3-bromo-phenyl)-propionic acid | 4.1 mmol, 1.0 g | NC(CC(=O)O)C1=CC(=CC=C1)Br | C9H10BrNO2
reactant | trimethylsilyl diazomethane | 40 mmol, 2.0 M, 20 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | 3-amino-3-(3-bromo-phenyl)-propionic acid methyl ester | 1.0 g, 95% | COC(CC(C1=CC(=CC=C1)Br)N)=O | C10H12BrNO2
